US04678781
The 3-aminomethylcephalosporin may be prepared as follows: Oxalyl chloride (337 μl.) and DMF (330 μl.) were added to CH2Cl2 (20 ml.) at -10°, and stirred for 30 minutes. 2-((Z)-t-Butoxycarbonylmethoxyimino)-2-(2 tritylaminothiazol-4-yl)acetic acid and N-methylmorpholine (510 μl.) were added and stirring continued for 30 minutes. Meanwhile in a separate flask, a suspension of 7-amino-3-azidomethylceph-3-em-4-carboxylic acid (987 mg.) in dichloromethane (8 ml.) was treated with N,O-bis(trimethylsilyl)acetamide (1.91 ml.), and stirred for 1 hour to give a clear solution, which was transferred by syringe to the acid chloride solution. After stirring the mixture for 1 hour at -10°, the temperature was allowed to rise to ambient. The mixture was poured into water (25 ml.) and organics extracted with EtOAc (3×25 ml.). The crude product was filtered through a short SiO2 column in EtOAc/HOAc 99:1 v/v, and evaporated to give 3-azidomethyl-7-[2-((Z)-t-butoxycarbonylmethoxyimino)-2-(2-tritylaminothiazol-4-yl)acetamido]ceph-3-em-4-carboxylic acid, having the following n.m.r. in solvent A: 1.4(s, 9H); 3.35(d, 1H); 3.63(d, 1H); 3.86(d, 1H); 4.38(d, 1H); 4.49(s, 2H); 5.09(d, 1H); 5.7(d, 1H); 6.73(s, 1H); 7.29(m, 15H).

reactant | Oxalyl chloride | 337 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-((Z)-t-Butoxycarbonylmethoxyimino)-2-(2 tritylaminothiazol-4-yl)acetic acid | C(C)(C)(C)OC(=O)CO\N=C(/C(=O)O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H29N3O5S
reactant | N-methylmorpholine | 510 μl | CN1CCOCC1 | C5H11NO
reactant | 7-amino-3-azidomethylceph-3-em-4-carboxylic acid | 987 mg | NC1[C@@H]2N(C(=C(CS2)CN=[N+]=[N-])C(=O)O)C1=O | C8H9N5O3S
reactant | N,O-bis(trimethylsilyl)acetamide | 1.91 ml | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | water | 25 ml | O | H2O
solvent | DMF | 330 μl | CN(C)C=O | C3H7NO
product | 3-azidomethyl-7-[2-((Z)-t-butoxycarbonylmethoxyimino)-2-(2-tritylaminothiazol-4-yl)acetamido]ceph-3-em-4-carboxylic acid | N(=[N+]=[N-])CC=1CS[C@H]2N(C1C(=O)O)C(C2NC(\C(\C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=N/OCC(=O)OC(C)(C)C)=O)=O | C38H36N8O7S2
